US07163938B2
5-Fluoro-2-[4-(hexahydro-1,4-diazepin-1-yl)benzoylamino]-N-(5-chloropyridin-2-yl)benzamide.
To a suspension of 2-[4-(4-t-butoxycarbonylhexahydro-1,4-diazepin-1-yl)benzoylamino]-5-fluoro-N-(5-chloropyridin-2-yl)benzamide (Example P1, 0.59 g) in methylene chloride (3 mL) and anisole (1 mL) was added trifluoroacetic acid (3 mL) dropwise. The mixture was stirred overnight at room temperature before the solvent was evaporated. The residue was purified by using an SCX column. Yield 0.337 g.

reactant | 2-[4-(4-t-butoxycarbonylhexahydro-1,4-diazepin-1-yl)benzoylamino]-5-fluoro-N-(5-chloropyridin-2-yl)benzamide | 0.59 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=CC=C(C(=O)NC2=C(C(=O)NC3=NC=C(C=C3)Cl)C=C(C=C2)F)C=C1 | C29H31ClFN5O4
reactant | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
solvent | anisole | 1 mL | C1(=CC=CC=C1)OC | C7H8O
product | 5-Fluoro-2-[4-(hexahydro-1,4-diazepin-1-yl)benzoylamino]-N-(5-chloropyridin-2-yl)benzamide | FC=1C=CC(=C(C(=O)NC2=NC=C(C=C2)Cl)C1)NC(C1=CC=C(C=C1)N1CCNCCC1)=O | C24H23ClFN5O2
